US05840745
5-aminomethyl-3-(quinol-4-ylmethylene)-2-oxindole, hydrochloride salt
To a solution of 5-aminomethyl-3-(quinol-4-ylmethylene)-2-oxindole (3.014 g, 10 mmol) in ethanol (10 ml) was added 1N hydrochloric acid (2 ml, 2 mmol) and the resulting mixture was evaporated to dryness under vacuum, thus giving pure title compound in about 100% yield.

reactant | 5-aminomethyl-3-(quinol-4-ylmethylene)-2-oxindole | 10 mmol, 3.014 g | NCC=1C=C2C(C(NC2=CC1)=O)=CC1=CC=NC2=CC=CC=C12 | C19H15N3O
reactant | hydrochloric acid | 2 mmol, 1N, 2 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-aminomethyl-3-(quinol-4-ylmethylene)-2-oxindole, hydrochloride salt | about 100% yield | Cl.NCC=1C=C2C(C(NC2=CC1)=O)=CC1=CC=NC2=CC=CC=C12 | InChI=1S/C19H15N3O.ClH/c20-11-12-5-6-18-15(9-12)16(19(23)22-18)10-13-7-8-21-17-4-2-1-3-14(13)17;/h1-10H,11,20H2,(H,22,23);1H
